US09169271B2
5-(Cyclopropoxy)pyrazine-2-carboxylic acid
Lithium hydroxide (264 mg, 6.28 mmol) is added to a solution of methyl 5-(cyclopropoxy)pyrazine-2-carboxylate (610 mg, 3.14 mmol) in tetrahydrofuran (10 mL) and water (0.5 mL). The reaction mixture is stirred for 1 hour at 50° C., cooled to ambient temperature, diluted with water, brought to pH=2 by slow addition of 1 M HCl, and extracted with dichloromethane (4 times). The organic layers are combined, dried over sodium sulfate, filtered, and concentrated under reduced pressure to give the title compound (550 mg, 97%). ES/MS (m/e): 181.0 (M+1).

reactant | Lithium hydroxide | 6.28 mmol, 264 mg | [OH-].[Li+]
reactant | methyl 5-(cyclopropoxy)pyrazine-2-carboxylate | 3.14 mmol, 610 mg | C1(CC1)OC=1N=CC(=NC1)C(=O)OC | C9H10N2O3
reactant | HCl | 1 M | Cl | ClH
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | 0.5 mL | O | H2O
product | 5-(Cyclopropoxy)pyrazine-2-carboxylic acid | 550 mg, 97% | C1(CC1)OC=1N=CC(=NC1)C(=O)O | C8H8N2O3
